US09260408B2
3-(5-Bromopyridin-3-yloxy)-azetidine-1-carboxylic acid tert-butyl ester
To a solution of 5-bromopyridin-3-ol (0.285 g, 1.64 mmol) in DMF (2.5 mL) was added K2CO3 (0.453 g, 3.28 mmol), followed by 3-bromo-azetidine-1-carboxylic acid tert-butyl ester (0.425 g, 1.8 mmol) in DMF (0.5 mL) and the reaction mixture was heated to 60° C. and stirred over night. The reaction mixture was diluted with EtOAc, poured into sat. NaHCO3 solution (10 mL) and the aqueous layer was extracted EtOAc (2×20 mL). Combined organics were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 50% EtOAc-heptane gradient to give the title compound (0.539 g, 100%) as a colorless crystalline solid. MS: 329.1 (M+H+).

reactant | 5-bromopyridin-3-ol | 1.64 mmol, 0.285 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | K2CO3 | 3.28 mmol, 0.453 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-azetidine-1-carboxylic acid tert-butyl ester | 1.8 mmol, 0.425 g | C(C)(C)(C)OC(=O)N1CC(C1)Br | C8H14BrNO2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(5-Bromopyridin-3-yloxy)-azetidine-1-carboxylic acid tert-butyl ester | 0.539 g, 100% | C(C)(C)(C)OC(=O)N1CC(C1)OC=1C=NC=C(C1)Br | C13H17BrN2O3
